US05489589
(±)-cis-3-Triethylsilyloxy-4-isobutenyl-N-t-butoxycarbonylazetidin-2-one
(±)-cis-3-Triethylsilyloxy-4-isobutenylazetidin-2-one (1.01 g, 3.95 mmol) was dissolved in dichloromethane (20 mL) and was treated with diisopropylethylamine (0.68 mL, 3.95 mmol) and a catalytic amount of dimethylaminopyridine. To this solution was added di-t-butyl dicarbonate (1.02 g, 4.68 mmol) and the solution was allowed to stir for 24 h at ambient temperature. The solution was then diluted with additional dichloromethane and washed with water then brine. The organic fraction was dried (MgSO4 ) and concentrated. The residue was purified by silica gel chromatography (eluted with hexanes/ethyl acetate 8:2) to give the desired product (1.26 g, 90%) as a colorless oil; 1H NMR (300 MHz, CDCl3): δ5.24 (d, 1H, J=9.6 Hz), 4.86 (d, 1H, J=5.7 Hz), 4.72 (dd, 1H, J=6.0, 9.9 Hz), 1.78 (d, 3H, J=1.1 Hz), 1.75 (d, 3H, J=1.1 Hz), 1.47 (s, 9H), 0.96-0.9 1 (m, 9H), 0.64-0.55 (m, 6H).

reactant | (±)-cis-3-Triethylsilyloxy-4-isobutenylazetidin-2-one | 3.95 mmol, 1.01 g | C(C)[Si](O[C@@H]1C(N[C@@H]1C=C(C)C)=O)(CC)CC | C13H25NO2Si
reactant | diisopropylethylamine | 3.95 mmol, 0.68 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 4.68 mmol, 1.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (±)-cis-3-Triethylsilyloxy-4-isobutenyl-N-t-butoxycarbonylazetidin-2-one | 1.26 g, 90% | C(C)[Si](O[C@@H]1C(N([C@@H]1C=C(C)C)C(=O)OC(C)(C)C)=O)(CC)CC | C18H33NO4Si
